US08748446B2
300 mg (0.55 mmol) of 2,3-dimethyl-5-sulfo-1,3-di(4-sulfobutyl)-3H-indolium and 190 mg (0.66 mmol) of N-[5-(phenylamino)-2,4-pentadienylidene]aniline monohydrochloride were heated in 6 mL acetic anhydride-acetic acid (1:1, v/v) mixture for 30 min at 110° C. After cooling the product was precipitated with ethyl acetate, filtered off and washed with ether to give 240 mg (56%) of 4-[2-[6-anilino-1,3,5-hexatrienyl]-3-methyl-5-sulfo-3-(4-sulfobutyl)-3H-1-indoliumyl]-1-butanesulfonate. λmax (abs) 505 nm (methanol). This product was used for following step without additional purification.

reactant | 2,3-dimethyl-5-sulfo-1,3-di(4-sulfobutyl)-3H-indolium | 0.55 mmol, 300 mg | CC1=[N+](C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O)CCCCS(=O)(=O)O
reactant | N-[5-(phenylamino)-2,4-pentadienylidene]aniline monohydrochloride | 0.66 mmol, 190 mg | Cl.C1(=CC=CC=C1)NC=CC=CC=NC1=CC=CC=C1
solvent | acetic anhydride acetic acid | 6 mL | C(C)(=O)OC(C)=O.C(C)(=O)O
product | 4-[2-[6-anilino-1,3,5-hexatrienyl]-3-methyl-5-sulfo-3-(4-sulfobutyl)-3H-1-indoliumyl]-1-butanesulfonate | 240 mg, 56% | N(C1=CC=CC=C1)C=CC=CC=CC1=[N+](C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O)CCCCS(=O)(=O)[O-] | C29H36N2O9S3
